US04640707
A solution of 2-methyl-6-nitro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (5 g) in acetic acid (50 ml) and ethyl acetate (50 ml) was dropwise added to a mixture of iron powder (6 g) and 5% aqueous acetic acid (50 ml), and the resultant mixture was heated under reflux for 1 hour. After being allowed to cool, iron powder was removed by filtration and the filtrate was admixed with water. The aqueous layer was extracted with ethyl acetate, and the extract was combined with the organic layer, washed with a saturated sodium bicarbonate solution, dried and concentrated. The residue was crystallized from methanol to give 6-amino-2-methyl-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (2.2 g). m.p., 158°-159° C.

reactant | 2-methyl-6-nitro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 5 g | CC1OC2=C(N(C1=O)CC#C)C=C(C=C2)[N+](=O)[O-] | C12H10N2O4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 6 g | [Fe] | Fe
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-amino-2-methyl-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 2.2 g | NC=1C=CC2=C(N(C(C(O2)C)=O)CC#C)C1 | C12H12N2O2
